US08877742B2
1-acetyl-6-bromo-5-fluoro-2-methylindolin-3-one
To a mixture of 1-acetyl-6-bromo-5-fluoro-2-methyl-1H-indol-3-yl acetate (D87) (1.22 g, 3.72 mmol) in ethanol (15 mL) was added a solution of sodium sulfite (0.562 g, 4.46 mmol) in water (15.00 mL). The mixture was then heated at 110° C. for 2 hours. After cooling to RT, ethanol was removed under reduced pressure. The aqueous residue was poured into water (50 mL) and extracted with DCM (20 mL×3). The organic layers were combined, washed with brine (100 mL), filtered through phase separator and evaporated in vacuo. The crude residue was purified by chromatography on silica, eluting with a gradient of 0-40% ethyl acetate in cyclohexane to give title compound (769.5 mg). LCMS (A): m/z (M+H)+ 286/288, C11H9BrFNO2 requires 285/287 (acidic).

reactant | 1-acetyl-6-bromo-5-fluoro-2-methyl-1H-indol-3-yl acetate | 3.72 mmol, 1.22 g | C(C)(=O)OC1=C(N(C2=CC(=C(C=C12)F)Br)C(C)=O)C | C13H11BrFNO3
reactant | sodium sulfite | 4.46 mmol, 0.562 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | water | 15.00 mL | O | H2O
product | 1-acetyl-6-bromo-5-fluoro-2-methylindolin-3-one | 769.5 mg | C(C)(=O)N1C(C(C2=CC(=C(C=C12)Br)F)=O)C | C11H9BrFNO2
